US04010184
To a solution of 32 g of 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine in 100 ml of tetrahydrofuran is added 12.5 g of triethylamine, and then to this solution is added dropwise a solution of 13.2 g of dimethylcarbamoyl chloride in 30 ml of tetrahydrofuran with stirring. The whole mixture is stirred under reflux for 6 hours. After cooling, the reaction solution is transferred to water, and extracted with ethyl acetate. After the organic layer is washed with water and dried over anhydrous magnesium sulfate, the solvent is evaporated under reduced pressure. The residue is treated with ethanolic hydrogen chloride to give 5-o-chlorophenyl-7-ethyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride as yellow crystals. This product, when recrystallized from a mixture of methanol and ethyl acetate, melts at 240°-241° C with decomposition.

reactant | 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 32 g | ClC1=C(C=CC=C1)C=1C2=C(NCCN1)SC(=C2)CC | C15H15ClN2S
reactant | triethylamine | 12.5 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 13.2 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-o-chlorophenyl-7-ethyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride | Cl.ClC1=C(C=CC=C1)C=1C2=C(N(CCN1)C(N(C)C)=O)SC(=C2)CC | InChI=1S/C18H20ClN3OS.ClH/c1-4-12-11-14-16(13-7-5-6-8-15(13)19)20-9-10-22(17(14)24-12)18(23)21(2)3;/h5-8,11H,4,9-10H2,1-3H3;1H
